US07285557B2
3-Amino-5-(4-chlorophenyl)-N-[3-methoxy-4-(2-pyrrolidin-1-ylethoxy) phenyl]thiophene-2-carboxamide
Aqueous NaOH (4 mL, 1N) was added to a DMSO solution of 6-(4-chlorophenyl)-3-[3-methoxy-4-(2-pyrrolidin-1-ylethoxy)phenyl] thieno[3,2-d]pyrimidin-4(3H)-one (0.50 g, 0.001 mol) at 170° C. After 5 minutes a gummy precipitate was triturated with water and solidified to a tan solid (0.30 g, 60%).

reactant | NaOH | 1N, 4 mL | [OH-].[Na+]
reactant | 6-(4-chlorophenyl)-3-[3-methoxy-4-(2-pyrrolidin-1-ylethoxy)phenyl] thieno[3,2-d]pyrimidin-4(3H)-one | 0.001 mol, 0.50 g | ClC1=CC=C(C=C1)C1=CC=2N=CN(C(C2S1)=O)C1=CC(=C(C=C1)OCCN1CCCC1)OC | C25H24ClN3O3S
solvent | DMSO | CS(=O)C | C2H6OS
product | 3-Amino-5-(4-chlorophenyl)-N-[3-methoxy-4-(2-pyrrolidin-1-ylethoxy) phenyl]thiophene-2-carboxamide | NC1=C(SC(=C1)C1=CC=C(C=C1)Cl)C(=O)NC1=CC(=C(C=C1)OCCN1CCCC1)OC | C24H26ClN3O3S
